US05141551
7-(2-Chloro-6-fluoro-4-trifluoromethylphenoxy)-2,4-dimethyl-2H-1,4-benzoxazine-3 (4H)-thione (Example 35)
First, 7-hydroxy-2,4-dimethyl-2H-1,4-benzoxazine-3 (4H)-thione (0.2 g) and 3-chloro-4,5-difluorotrifluoromethylbenzene (0.3 g) were dissolved in DMSO (5 ml), potassium carbonate (0.2 g) was added thereto, and the mixture was stirred at 80° C. for one hr. Water (10 ml) was added thereto to terminate the reaction, and the reaction mixture was extracted with ethyl acetate (20 ml×2), washed with water and a saturated saline solution and dried over anhydrous magnesium sulfate. The solvent was distilled off in vacuo, and the residue was purified by silica gel chromatography (developing solvent: n-hexane/ethyl acetate=5/1) to prepare the title compound (0.2 g) as a colorless crystal.

reactant | 7-hydroxy-2,4-dimethyl-2H-1,4-benzoxazine-3 (4H)-thione | 0.2 g | OC1=CC2=C(N(C(C(O2)C)=S)C)C=C1 | C10H11NO2S
reactant | 3-chloro-4,5-difluorotrifluoromethylbenzene | 0.3 g | ClC=1C=C(C=C(C1F)F)C(F)(F)F | C7H2ClF5
reactant | potassium carbonate | 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 10 ml | O | H2O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 7-(2-Chloro-6-fluoro-4-trifluoromethylphenoxy)-2,4-dimethyl-2H-1,4-benzoxazine-3 (4H)-thione | ClC1=C(OC2=CC3=C(N(C(C(O3)C)=S)C)C=C2)C(=CC(=C1)C(F)(F)F)F | C17H12ClF4NO2S
